US06515003B1
To a solution of toluene (30 mL) containing piperidine (0.2 mL) and acetic acid (0.2 mL) were added 2,4-thiazolidinedione (2.34 g, 20 mmol) and 4-dimethylamino-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphtalen-2-yl)benzaldehyde (7.0 g, 20 mmol). The reaction mixture was heated at reflux for 4 hours with continuous removal of water using a Dean-Stark water separator. After cooling to room temperature, a yellow solid formed that was collected and washed with ethanol, dried under vacuum to give 5.7 g of 5-[4-dimethylamino-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphtalen-2-yl)benzylidene]thiazolidine-2,4-dione. The organic layers were combined and evaporated. Trituration from ethanol afforded 1.4 g more of product (78%). 1H NMR (300 MHz; d-DMSO): 1.21 (s, 3H); 1.24 (s, 3H); 1.27 (s, 6H); 1.65 (s, 4H); 2.05 (s, 3H); 2.55 (s, 6H); 7.06 (d, J=9 Hz, 1H); 7.13 (s, 1H); 7.20 (s, 1H); 7.21 (d, J=2.4 Hz, 1H); 7.46 (dd, J1=2.1 Hz, J2=8.7 Hz, 1H); 7.73 (s, 1H), 12.43 (s, 1H).

reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | piperidine | 0.2 mL | N1CCCCC1 | C5H11N
reactant | 2,4-thiazolidinedione | 20 mmol, 2.34 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 4-dimethylamino-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphtalen-2-yl)benzaldehyde | 20 mmol, 7.0 g | CN(C1=C(C=C(C=O)C=C1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)C | C24H31NO
solvent | water | O | H2O
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | 5-[4-dimethylamino-3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphtalen-2-yl)benzylidene]thiazolidine-2,4-dione | 5.7 g | CN(C1=C(C=C(C=C2C(NC(S2)=O)=O)C=C1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)C | C27H32N2O2S
